US05358948
3-Methoxy-4-(4-pyridinyl)benzoic acid
Intermediate 38 (1.06 g), 4-pyridinylboronic acid (486 mg), DME (25 ml), 2N sodium carbonate (10 ml) and tetrakis(triphenylphosphine) palladium (0) (70 mg), were heated to reflux for 18 h under nitrogen. After allowing to cool to room temperature, water (50 ml) was added and the mixture was washed with ethyl acetate (2×50 ml). The aqueous phase was neutralised with 2N hydrochloric acid, and then concentrated in vacuo onto silica (Merck 9385). Purification by FCC eluting with ethyl acetate:hexane:acetic acid (750:240:10) gave a pale orange solid which was triturated in ether and dried under high vacuum to give the title compound as a pale orange solid (370 mg) m.p. 239°-241° C.

reactant | 4-pyridinylboronic acid | 486 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | DME | 25 ml | COCCOC | C4H10O2
reactant | sodium carbonate | 2N, 10 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine) palladium (0) | 70 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 50 ml | O | H2O
product | 3-Methoxy-4-(4-pyridinyl)benzoic acid | 370 mg | COC=1C=C(C(=O)O)C=CC1C1=CC=NC=C1 | C13H11NO3
